Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / latex
 
Attending: ___
 
Chief Complaint:
R hand pain/swelling
 
Major Surgical or Invasive Procedure:
R finger abscess I&D

 
History of Present Illness:
Mr. ___ is a ___ year old male with history of IV drug
use (heroin > ___ years ago, cocaine on ___ and
new diagnosis of hepatitis C who presents with laceration to R
hand associated with swelling and pain.

The patient works as an ___ and reports that he had a
scratch puncture to the fingertip of his right third finger. 
Over
the next few days, he noted swelling in his finger. Two days
prior to admission, he noted swelling in his hand with a bruise
like discoloration of his third finger. With the increasing
swelling, he also noted increased pain. He took two ibuprofen 
for
the pain. Of note, the patient injected cocaine into his right
arm with a clean needle prior ___ evening. 

Prior to admission, the patient denies fevers or chills. Denies
sweats. Denies pain in other joints or prior hand infections. He
was noted to have a temperature of 100.3 at ___ 
but
had no symptoms. 

At ___, he was given ceftriaxone and given vancomycin. Hand
surgery evaluated him this morning and did I&D with cultures
(hand as wella s blood). Also recommended elevation as much as
possible with TID betadine soaks. 

On arrival to the floor, the patient reports he feels OK. He
continues to have pain about a ___ in severity. He does feel
warm but denies chills. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Recent diagnosis of hepatitis C 
ADD
History of congenital thoracic abnormality

 
Social History:
___
Family History:
Father- ___ at age ___ from Colon cancer (patient reports he
is up to date on cancer screening)
Brother and sister both healthy
 
Physical Exam:
ADMISSION EXAM:
==============
___ 1622 Temp: 99.5 PO BP: 136/88 HR: 94 RR: 18 O2
sat: 96% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. + swelling of right 
hand,
middle finger wrapped. + Pulses. No swelling or erythema of arm.
No palpable epitrochlear LN.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
==============
VITALS: 98.4PO 120 / 76 74 18 94 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. Middle finger still 
mildly swollen (though significantly improved) with no obvious 
drainage from lateral lac. ROM significantly improved in finger. 
 No swelling or erythema of dorsum of hand/arm. No palpable 
epitrochlear LN.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:15PM BLOOD WBC-6.8 RBC-4.48* Hgb-12.2* Hct-37.3* 
MCV-83 MCH-27.2 MCHC-32.7 RDW-15.4 RDWSD-46.5* Plt ___
___ 09:15PM BLOOD Neuts-63.4 ___ Monos-10.6 Eos-4.0 
Baso-0.6 Im ___ AbsNeut-4.31 AbsLymp-1.43 AbsMono-0.72 
AbsEos-0.27 AbsBaso-0.04
___ 09:15PM BLOOD ___ PTT-27.3 ___
___ 09:15PM BLOOD Glucose-91 UreaN-9 Creat-0.9 Na-138 K-4.4 
Cl-101 HCO3-24 AnGap-13
___ 09:15PM BLOOD Albumin-3.8
___ 09:15PM BLOOD CRP-116.5*

DISCHARGE LABS:
==============
___ 07:40AM BLOOD WBC-5.0 RBC-4.27* Hgb-11.6* Hct-36.1* 
MCV-85 MCH-27.2 MCHC-32.1 RDW-15.0 RDWSD-45.8 Plt ___
___ 06:35AM BLOOD ___ PTT-30.0 ___
___ 07:40AM BLOOD Glucose-96 UreaN-11 Creat-0.8 Na-142 
K-4.8 Cl-104 HCO3-26 AnGap-12
___ 07:40AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.1
___ 03:15PM BLOOD Vanco-15.4

MICRO:
=====
___ Blood culture x2: NGTD
___ Wound culture: Negative
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of recently 
diagnosed hepatitis C who presents with right hand infection 
following puncture wound.

#Finger Laceration with cellulitis and abscess
Patient with known injury at work. Also injected into same arm, 
but this was 7 days after injury and after swelling started. s/p 
I and D in ED with cultures that did not grow any organisms.  He 
was treated with IV Vanc/CTX x5 days.  Followed by Hand Surgery 
who recommended TID betadine soaks.  Swelling and pain in R 
middle finger/R hand improved significantly with this regimen.  
He will complete a 10-day course of abx with doxycycline/Keflex 
on discharge.  Tylenol/Ibuprofen provided for pain.

#Hepatitis C
Patient reports recently diagnosed with hepatitis C by PCP. LFTs 
not significantly elevated and no signs of acute hepatitis.  Pt 
will speak with his OP GI provider for further tx discussion.

#ADD
#History of cocaine abuse
Patient reports he was on Vivianase.  He was seen by SW for help 
with community support.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vyvanse (lisdexamfetamine) 70 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*20 Tablet Refills:*0 
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0 
3.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every 12 
hours Disp #*10 Tablet Refills:*0 
4.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0 
5.  Vyvanse (lisdexamfetamine) 70 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R hand cellulitis
R middle finger abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with an infection of your R middle finger and R 
hand.  We treated you with IV antibiotics and you improved.  You 
were also seen by hand surgery who drained an abscess in your 
finger but did not otherwise feel that you needed surgery.

We are sending you home with oral antibiotics to complete the 
course.  Please continue taking these as directed and finish the 
course.

Please return if you have worsening pain, redness, or drainage 
from your hand/finger, if you have any nausea, vomiting, 
diarrhea, fevers/chills or if you have any other concerns.
 
Followup Instructions:
___